US07977344B2
3-(2,2-Dimethyltetrahydro-2H-pyran-4-yl)-1-propanol
A solution of 2,2-dimethyl-4-{3-[(phenylmethyl)oxy]propylidene}tetrahydro-2H-pyran (5.98 g, 22.97 mmol) in ethyl acetate (70 ml) was hydrogenated over 10% palladium on activated carbon (0.733 g, 0.689 mmol) at atmospheric pressure and room temperature. After 16 hours, the mixture was filtered under vacuum through Celite, washed through with EtOAc (2×50 mL) and the filtrate was evaporated to dryness to give a yellowish mobile oil. 1H NMR showed that most of the benzyl group had been hydrogenated but the double bond was still present. The residue was dissolved in ethyl acetate (70 ml) and was hydrogenated over 10% palladium on activated carbon (1.1 g) at atmospheric pressure and room temperature. After 16 hours, the mixture was filtered under vacuum through Celite, washed through with EtOAc (2×50 mL) and the filtrate was evaporated to dryness to give a yellowish mobile oil. The residue was purified by chromatography on silica (100 g) using a cyclohexane:ethyl acetate 0->50% gradient over 40 mins on a Flashmaster II. The desired fractions (analysed with a permanganate dip) were combined and concentrated under vacuum to give the title compound as a pale yellow oil (2.17 g).

reactant | 2,2-dimethyl-4-{3-[(phenylmethyl)oxy]propylidene}tetrahydro-2H-pyran | 22.97 mmol, 5.98 g | CC1(OCCC(C1)=CCCOCC1=CC=CC=C1)C | C17H24O2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 0.689 mmol, 0.733 g | [Pd] | Pd
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 1.1 g | [Pd] | Pd
product | 3-(2,2-Dimethyltetrahydro-2H-pyran-4-yl)-1-propanol | 2.17 g | CC1(OCCC(C1)CCCO)C | C10H20O2
